US08466186B2
(b) (S)—N-(4-Chloro-3-(3-(4-chloro-5-(2-(methoxymethyl)pyrrolidin-1-yl)-2-nitrophenyl)thioureido)benzyl)-1-(trifluoromethyl)cyclopropanecarboxamide
A mixture of N-(3-amino-4-chlorobenzyl)-1-(trifluoromethyl)cyclopropanecarboxamide (150 mg; 0.51 mmol), (S)-5-chloro-2-isothiocyanato-4-(2-(methoxymethyl)pyrrolidin-1-yl)-nitrobenzene (169 mg; 0.51 mmol) and DMF (3 mL) was stirred at rt overnight. The mixture was poured into brine and extracted with CH2Cl2. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was washed with Et2O to give the sub-title compound.

reactant | N-(3-amino-4-chlorobenzyl)-1-(trifluoromethyl)cyclopropanecarboxamide | 0.51 mmol, 150 mg | NC=1C=C(CNC(=O)C2(CC2)C(F)(F)F)C=CC1Cl | C12H12ClF3N2O
reactant | (S)-5-chloro-2-isothiocyanato-4-(2-(methoxymethyl)pyrrolidin-1-yl)-nitrobenzene | 0.51 mmol, 169 mg | ClC=1C(=CC(=C(C1)[N+](=O)[O-])N=C=S)N1[C@@H](CCC1)COC | C13H14ClN3O3S
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | (S)—N-(4-Chloro-3-(3-(4-chloro-5-(2-(methoxymethyl)pyrrolidin-1-yl)-2-nitrophenyl)thioureido)benzyl)-1-(trifluoromethyl)cyclopropanecarboxamide | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)NC(=S)NC1=C(C=C(C(=C1)N1[C@@H](CCC1)COC)Cl)[N+](=O)[O-] | C25H26Cl2F3N5O4S
